US03992544
1,5-Dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine-3-carboxaldehyde
Phosphoryl chloride (1.68 g) was added dropwise to cooled dimethyl-formamide (1.60 g). A suspension of 1,5-dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine (3.92 g) in dimethylformamide (20 ml) was added portionwise. The resulting red solution was heated at 50° C for 4 hours, allowed to cool and poured on to 250 g ice. The mixture was basified with 2N sodium hydroxide, warmed gently for a few minutes, and the solid product collected by filtration, washed with water and dried. Two recrystallisations from methanol gave 2.86 g of the title compound as white needles. M.pt. 120°-1°. (Found: C, 83.2; H, 6.9; N, 6.5. C29H28N2O requires: C, 82.8; H, 6.7; N, 6.7%).

reactant | Phosphoryl chloride | 1.68 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,5-dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine | 3.92 g | C(C1=CC=CC=C1)N1C(=CC=2CN(CC(C21)C)CC2=CC=CC=C2)C2=CC=CC=C2 | C28H28N2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethyl-formamide | 1.60 g | CN(C=O)C | C3H7NO
product | 1,5-Dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine-3-carboxaldehyde | 2.86 g | C(C1=CC=CC=C1)N1C(=C(C=2CN(CC(C21)C)CC2=CC=CC=C2)C=O)C2=CC=CC=C2 | C29H28N2O
